US04939137
The title compound was produced following the procedure of Example 1 using 4.28 g (9.5 mmol) of 3-[4-[4-(3-trifluoromethylphenyl)piperazin-1-yl]butyl]thieno[3,4-d]pyrimidine-2,4-dione in DMF at 45° C. for 16 hours to produce methyl 3-[3-[4-[4(3-trifluoromethylpheny)piperazin-1-yl]butyl]-2,4-dioxothieno[3,4-d]pyrimidin-1-yl]propanoate in 80.5% yield (4.1 g).

reactant | 3-[4-[4-(3-trifluoromethylphenyl)piperazin-1-yl]butyl]thieno[3,4-d]pyrimidine-2,4-dione | 9.5 mmol, 4.28 g | FC(C=1C=C(C=CC1)N1CCN(CC1)CCCCN1C(NC=2C(C1=O)=CSC2)=O)(F)F | C21H23F3N4O2S
reactant | DMF | CN(C)C=O | C3H7NO
product | methyl 3-[3-[4-[4(3-trifluoromethylpheny)piperazin-1-yl]butyl]-2,4-dioxothieno[3,4-d]pyrimidin-1-yl]propanoate | 80.5% yield | FC(C=1C=C(C=CC1)N1CCN(CC1)CCCCN1C(N(C=2C(C1=O)=CSC2)CCC(=O)OC)=O)(F)F | C25H29F3N4O4S
